US06689923B2
Under argon atmosphere, 1.0 mmol (459 mg) of hexafluoropropene trimer mixture [including 5 wt % of perfluoro-(3-ethyl-2,4-dimethyl-2-pentene)] comprising perfluoro-(4-methyl-3-isopropyl-2-pentene) as a main component was put in a 100 ml egg-plant-shaped flask with a three-way stopcock having a magnet stirrer made of Teflon (R) therein. Then, 10 ml of anhydrous ether dry-distilled on sodium was added into the mixture, and stirringly dissolved therein. 0.5 ml (1.0 mmol) of cyclohexane-ether solution containing 17% of phenyl lithium was dropped into the mixture from a dropping funnel in the interval of about 3 minutes, while maintaining the mixture at about −78° C. by cooling the reaction vessel in a dry ice-ethanol bath. After continuously stirring at about −50° C. for about 3 hours, the resulting reacted mixture became a yellow solution including a brown solid. The reaction mixture was poured into 30 ml of ice water. Then, 20 ml of ether was added therein to extract a target compound, and the extracted compound was rinsed with 30 ml of salt solution. After the reacted ether mixture was dried with magnesium sulfate for one night, the resulting mixture was subjected to reduced-pressure distillation under a vacuum of 5 mmHg to remove ether, and then subjected to reduced-pressure distillation under a vacuum of 10 mmHg. As a result, a mixture of 3 different conformational isomers of 2-phenyl-perfluoro-(4-methyl-3-isopropyl-2-pentene) was obtained. The respective structures of the obtained compounds were determined by 19F-NMR, 1H-NMR, GC-MS and others. The yields of conformational isomers A, B and C of 2-phenyl-perfluoro-(4-methyl-3-isopropyl-2-pentene) calculated from the integral ratio of the peak areas of the 19F-NMR spectrum were about 24% , 16% and 12%, respectively.

reactant | hexafluoropropene trimer | 1.0 mmol, 459 mg | C(=C(F)F)(C(F)(F)F)F.C(=C(F)F)(C(F)(F)F)F.C(=C(F)F)(C(F)(F)F)F | 3C3F6
reactant | perfluoro-(4-methyl-3-isopropyl-2-pentene) | FC(C(=C(C(C(F)(F)F)(C(F)(F)F)F)C(C(F)(F)F)(C(F)(F)F)F)F)(F)F | C9F18
reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-phenyl-perfluoro-(4-methyl-3-isopropyl-2-pentene) | C1(=CC=CC=C1)C(C(F)(F)F)=C(C(C(F)(F)F)(C(F)(F)F)F)C(C(F)(F)F)(C(F)(F)F)F | C15H5F17
